US06451740B2
0.4 g of methyl [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate [Compound 3-11 of the present invention] was dissolved in 4 ml of 1,4-dioxane, to this was added a mixed solution of 1 ml of conc. hydrochloric acid and 1 ml of water while stirring, then, the mixture was heated for 12 hours while stirring under reflux condition. Thereafter, the solution was allowed to cool, and ice water was poured into the reaction solution, ethyl acetate and saturated saline were added to the solution which was separated subsequently, and aqueous sodium hydrogen carbonate was added to the organic layer before separation, aqueous hydrochloric acid was added to the aqueous layer to acidify it, then, ethyl acetate was added before separation, the organic layer was washed with saturated saline, and dried over magnesium sulfate, then, concentrated to obtain 0.252 g of [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetic acid.

reactant | methyl [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate | 0.4 g | ClC1=C(OC2=C(OCC(=O)OC)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C21H15ClF4N2O6
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | water | 1 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetic acid | 0.252 g | ClC1=C(OC2=C(OCC(=O)O)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H13ClF4N2O6
